US09216980B2
Preparation of 1-(4-Bromobenzyl)-azetidine
A solution of 4-bromobenzyl bromide (1.00 g, 4.0 mmol) and triethylamine (0.84 ml, 6.0 mmol) in THF (20 mL) was stirred at ambient temperature for 10 minutes. Azetidine (0.54 ml, 8.0 mmol) was then added and a white precipitate resulted. The slurry was stirred at ambient temperature for 18 h then evaporated in vacuo. The resultant residue was partitioned between DCM and saturated aqueous sodium hydrogen carbonate, the organic phase was separated, dried over magnesium sulfate and concentrated in vacuo to afford the title compound (0.76 g, 3.40 mmol) as a colourless oil. 1H NMR (CDCl3, 400 MHz): 7.42 (d, J=8.3 Hz, 2H), 7.15 (d, J=8.2 Hz, 2H), 3.50 (s, 2H), 3.19 (t, J=7.0 Hz, 4H), 2.08 (p, J=7.0 Hz, 2H).

reactant | 4-bromobenzyl bromide | 4.0 mmol, 1.00 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | triethylamine | 6.0 mmol, 0.84 ml | C(C)N(CC)CC | C6H15N
reactant | Azetidine | 8.0 mmol, 0.54 ml | N1CCC1 | C3H7N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(4-Bromobenzyl)-azetidine | 3.40 mmol, 0.76 g | BrC1=CC=C(CN2CCC2)C=C1 | C10H12BrN
